US04670448
(a) N-[[1-Methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazol-3-yl]methyl]methanesulphonamide
A solution of 1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-methanamine (0.5 g) and methane sulphonyl chloride (0.16 g) in pyridine (25 ml) was stirred at room temperature for 18 h. The solution was evaporated to give a brown oil which was crystallised from a mixture of ethyl acetate and petroleum ether (b.p. 60°-80°) to give the title compound (0.14 g) as a white powder, m.p. 117°-118°.

reactant | 1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-methanamine | 0.5 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)CN | C19H30N6O
reactant | methane sulphonyl chloride | 0.16 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | N-[[1-Methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazol-3-yl]methyl]methanesulphonamide | 0.14 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)CNS(=O)(=O)C | C20H32N6O3S
